US07008950B1
3-(4-Isopropylphenyl)-2,2-dimethyl-2,3-dihydrobenzofuran-5-ol
n-Butyllithium (1.6 M, 20.8 mL, 33.2 mmol) was added to a solution of 1-bromo-2,5-dimethoxybenzene (7.2 g, 33.2 mmol) in tetrahydrofuran (20 mL) at −78° C., and the mixture was stirred for 20 minutes at the same temperature. To the reaction mixture was added 1-(4-isopropylphenyl)-2-methylpropan-1-one (5.70 g, 30.0 mmol), and the mixture was stirred for 30 minutes at room temperature. Water (30 mL) was poured into the reaction mixture, which was then extracted three times with ethyl acetate. The organic layers were combined, washed with water, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. A mixture of the residue and 48% hydrobromic acid (30 mL) was heated under reflux for 24 hours in an argon atmosphere. After cooling, water (30 mL) was added to the reaction mixture, which was then extracted twice with ethyl acetate. The organic layers were combined, washed with water, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was crystallized from isopropyl ether-hexane to obtain the title compound (2.1 g, yield 70%).

reactant | n-Butyllithium | 33.2 mmol, 1.6 M, 20.8 mL | C(CCC)[Li]
reactant | 1-bromo-2,5-dimethoxybenzene | 33.2 mmol, 7.2 g | BrC1=C(C=CC(=C1)OC)OC | C8H9BrO2
reactant | 1-(4-isopropylphenyl)-2-methylpropan-1-one | 30.0 mmol, 5.70 g | C(C)(C)C1=CC=C(C=C1)C(C(C)C)=O | C13H18O
reactant | Water | 30 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(4-Isopropylphenyl)-2,2-dimethyl-2,3-dihydrobenzofuran-5-ol | 2.1 g, yield 70% | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C=C(C=C2)O)(C)C | C19H22O2
